US08247612B2
To a solution of 3.0 g of 3-(trifluoromethyl)-hexyl methanesulfonate and 2.8 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide was added 1.7 g of potassium carbonate at room temperature. The reaction mixture was heated to 60° C., stirred at the same temperature for 2 days, and then allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 1.90 g of methyl 5-(trifluoromethyl)-2-(3,3,3-trifluoropropylsulfonyl)octanoate (hereinafter referred to as the present compound (21)).

reactant | 3-(trifluoromethyl)-hexyl methanesulfonate | 3.0 g | CS(=O)(=O)OCCC(CCC)C(F)(F)F | C8H15F3O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.8 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 5-(trifluoromethyl)-2-(3,3,3-trifluoropropylsulfonyl)octanoate | 1.90 g | FC(C(CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)CCC)(F)F | C13H20F6O4S
